* Multi-Output op-amp SVF, based on "A FOURTH-ORDER STATE VARIABLE FILTER FOR LINKWITZ-RILEY ACTIVE CROSSOVER DESIGNS" by Dennis Bohn

Vin vi 0 PULSE(-1 1 0 20m 1u 1u 20m)

Rin vi z1p 10k

R1 z1n vh 10k

Rf1 vh z2n 15k
Cf1 z2n vb 100n IC=0

Rf2 vb z3n 15k
Cf2 z3n vl 100n IC=0

Rfb1 vb z1p 2.5k
Rfb2 vl z1n 10k
Rg z1n 0 15.2k

* op-amps
* [out, 0, pos, neg, gain]
E1 vh 0 z1p z1n 1e6
E2 vb 0 0 z2n 1e6
E3 vl 0 0 z3n 1e6

Escaled vh_scaled 0 value = {V(vh)*0.5} ; netlist_skip

.tran 0 80m 0 20.0u
* .ac dec 100 10 20k
.wav "vin.wav" 32 48k V(vi)
.wav "vout_hp.wav" 32 48k V(vh_scaled)
.wav "vout_bp.wav" 32 48k V(vb)
.wav "vout_lp.wav" 32 48k V(vl)
.options plotwinsize=0
.backanno
.end

* output:vh
* output:vb
* output:vl
